US04808729
1-(4-Bromobutoxy)-2-propylbenzene
The title compound was prepared according to the procedure of Example 7 using 2-n-propylphenol (10 g, 0.073 mol) in methylene chloride (100 ml), sodium hydroxide (6.0 g, 0.146 mol) in water (100 ml), 1,4-dibromobutane (55 g, 0.255 mol) and tetra-n-butylammonium bisulfate (26 g, 0.073 mol). The crude product was distilled (b.p. 110°-112°/0.25 mm Hg) to give 20 g (80%) of the title compound.

reactant | 2-n-propylphenol | 0.073 mol, 10 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | sodium hydroxide | 0.146 mol, 6.0 g | [OH-].[Na+]
reactant | 1,4-dibromobutane | 0.255 mol, 55 g | BrCCCCBr | C4H8Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
catalyst | tetra-n-butylammonium bisulfate | 0.073 mol, 26 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-Bromobutoxy)-2-propylbenzene | 20 g, 80% | BrCCCCOC1=C(C=CC=C1)CCC | C13H19BrO
